US08198456B2
To 5-(3,5-dicyano-1,4-dihydro-2,6-dimethyl-4-pyridinyl)-1H-indazole-3-carboxylic acid methyl ester (110 mg, 0.33 mmol) in MeOH—H2O (1:1, 8 mL) was added LiOH (1.08 g, 26.4 mmol) at rt. The reaction mixture was heated up to 70° C. for 2 days. After cooling to rt, the solution was acidified to pH 7 with 1 N HCl. After the removal of MeOH, the residue was purified by HPLC to afford 5-(3,5-dicyano-1,4-dihydro-2,6-dimethyl-4-pyridinyl)-1H-indazole-3-carboxylic acid (98 mg, 93%) (Cpd. No. 86, Table 2). 1H-NMR (400 MHz, DMSO-D6): δ=8.04 (s, 1H), 7.78 (s, 1H), 7.41 (d, 1H), 4.62 (s, 1H), 2.1 (s, 6H) ppm.

reactant | 5-(3,5-dicyano-1,4-dihydro-2,6-dimethyl-4-pyridinyl)-1H-indazole-3-carboxylic acid methyl ester | 0.33 mmol, 110 mg | COC(=O)C1=NNC2=CC=C(C=C12)C1C(=C(NC(=C1C#N)C)C)C#N | C18H15N5O2
reactant | LiOH | 26.4 mmol, 1.08 g | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | MeOH—H2O | 8 mL | CO.O
product | 5-(3,5-dicyano-1,4-dihydro-2,6-dimethyl-4-pyridinyl)-1H-indazole-3-carboxylic acid | 98 mg, 93% | C(#N)C1=C(NC(=C(C1C=1C=C2C(=NNC2=CC1)C(=O)O)C#N)C)C | C17H13N5O2
